US04859229
using 3-[4-chloro-2-fluoro-5-(2-hydroxyethoxy)phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)pyrimidinedione with pyridine in diethyl ether there is obtained 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4 -fluorophenoxy}-ethyl formate, 1H-NMR (CDCl3, 400 MHz): 8.11 ppm (t,1H), 7.33 ppm (d,1H), 6.82 ppm (d,1H), 6.35 ppm (s,1H), 4.54 ppm (m,2H), 4.22 ppm (t,2H), 3.56 ppm (d,3H).

reactant | 3-[4-chloro-2-fluoro-5-(2-hydroxyethoxy)phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)pyrimidinedione | ClC1=CC(=C(C=C1OCCO)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C14H11ClF4N2O4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | diethyl ether | C(C)OCC | C4H10O
product | 2-{2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4 -trifluoromethyl-1(2H)-pyrimidinyl]-4 -fluorophenoxy}-ethyl formate | C(=O)OCCOC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C15H11ClF4N2O5
